US05076832
To a toluene (200 mL) solution of 3-aminobenzotrifluoride (10.4 grams, 0.06 mol) was added 2-fluorobenzaldehyde (8.0 grams, 0.06 mol). The mixture was heated under reflux with a Dean-Stark trap for 6 hours. The solvent was removed in a rotary evaporator to give 2-fluorobenzylidene 3-trifluoromethylaniline (16.8 grams, 97% yield, yellow liquid) whose structure was confirmed by nuclear magnetic resonance, infra-red spectroscopy, and mass spectroscopy analysis.

reactant | 3-aminobenzotrifluoride | 0.06 mol, 10.4 grams | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | 2-fluorobenzaldehyde | 0.06 mol, 8.0 grams | FC1=C(C=O)C=CC=C1 | C7H5FO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluorobenzylidene 3-trifluoromethylaniline | 16.8 grams, 97% yield | FC1=C(C=NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1 | C14H9F4N
